US07834021B2
4-(6-Azetidin-1-ylpyridin-3-yl)-4-hydroxycyclohexanone.
8-(6-Azetidin-1-ylpyridin-3-yl)-1,4-dioxaspiro[4.5]decan-8-ol (35 mg) was dissolved in THF (1.2 mL), and then 3 M HCl (0.8 mL) was added at rt. The resulting solution was stirred at rt for 2 h, then basified with 6 N NaOH in ice bath to PH=10. The aqueous layer was extracted with CH2Cl2×3. The combined organic layers were dried, filtered and rotary evaporated to provide 28 mg (97%) of white solid product w/o further purification. MS (M+H+)=247.0.

reactant | 8-(6-Azetidin-1-ylpyridin-3-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 35 mg | N1(CCC1)C1=CC=C(C=N1)C1(CCC2(OCCO2)CC1)O | C16H22N2O3
reactant | HCl | 3 M, 0.8 mL | Cl | ClH
reactant | NaOH | 6 N | [OH-].[Na+]
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
product | 4-(6-Azetidin-1-ylpyridin-3-yl)-4-hydroxycyclohexanone | N1(CCC1)C1=CC=C(C=N1)C1(CCC(CC1)=O)O | C14H18N2O2
